US05075046
Vicinal Diacetyl Stearic Acid Methyl Ester
6 Mol of an epoxidized oleic acid methyl ester (epoxide oxygen content: 4.61%) were stirred for 4 hours under vigorous reflux with 12 mol acetic anhydride, 10 mol % acetic acid and 1 mol % concentrated sulfuric acid. After neutralization with sodium methylate, the excess acetic anhydride was distilled off; the residue was distilled in a water jet vacuum (approx. 15 torr) up to 120° C. to remove volatile fractions of acetic anhydride. Precipitated salts were removed from the distillation residue by filtration. A brown clear liquid having the following analytical data was obtained: epoxide oxygen content 0.32%, OH value 2.6, saponification value 294.4, acid value 1.1, iodine value 14.7.

reactant | oleic acid methyl ester | 6 Mol | COC(CCCCCCC\C=C/CCCCCCCC)=O | C19H36O2
reactant | acetic anhydride | 12 mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | iodine | II | I2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | Diacetyl Stearic Acid Methyl Ester | COC(C(CCCCCCCCCCCCCCCC)(C(C)=O)C(C)=O)=O | C23H42O4
